### PR TITLE
feat: add optimized instruction selection pass, including combines for pre-legalization, post-legalization O0 optimizations from GlobalISel

### PR DESCRIPTION
**Pull request by luisacicolini**
Co-authored-by: @salinhkuhn

### CODE REVIEW

File: SSA/Projects/LLVMRiscV/ParseAndTransform.lean [hunk 1]
```diff
@@ -52,3 +52,29 @@ def passriscv64 (fileName : String) : IO UInt32 := do
       | _ =>
       IO.println s!" debug: WRONG EFFECT KIND : expected pure program "
       return 1
+
+/-- This function parses a `Com` from the file with name `fileName` as a `Com` of type `LLVMAndRiscV`.
```
Comment (alexkeizer) [inline SSA/Projects/LLVMRiscV/ParseAndTransform.lean]:
```suggestion
/-- `passriscv64_optimized` parses a `Com` from the file with name `fileName` as a `Com` of type `LLVMAndRiscV`.
```

NIT: I don't like "this function"

File: SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean [hunk 2]
```diff
@@ -443,3 +693,271 @@ def mul_by_neg_one : LLVMPeepholeRewriteRefine 64 [Ty.llvm (.bitvec 64)] where
...
+  ++
+  (List.map (fun ⟨_,y⟩ => mkRewrite (LLVMToRiscvPeepholeRewriteRefine.toPeepholeUNSOUND y))
+    sub_to_add)
+  ++
+  (List.map (fun ⟨_,y⟩ => mkRewrite (LLVMToRiscvPeepholeRewriteRefine.toPeepholeUNSOUND y))
+  mul_to_shl)
+
+/-- We group all the rewrites that form the post-legalization optimizations in GlobalISel-/
+def GLobalISelPostLegalizerCombiner :
+  List (Σ Γ, Σ ty, PeepholeRewrite LLVMPlusRiscV Γ ty) :=
```
Comment (alexkeizer) [inline SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean]:
```suggestion
    List (Σ Γ, Σ ty, PeepholeRewrite LLVMPlusRiscV Γ ty) :=
```
Types should be indented one more than the body

File: SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean [hunk 3]
```diff
@@ -443,3 +693,271 @@ def mul_by_neg_one : LLVMPeepholeRewriteRefine 64 [Ty.llvm (.bitvec 64)] where
...
+  LLVMIR_not_cmp_fold)
+  ++
+  (List.map (fun ⟨_,y⟩ => mkRewrite (LLVMToRiscvPeepholeRewriteRefine.toPeepholeUNSOUND y))
+   mul_by_neg_one)
+  ++
+  (List.map (fun ⟨_,y⟩ => mkRewrite (LLVMToRiscvPeepholeRewriteRefine.toPeepholeUNSOUND y))
+    sub_to_add)
+  ++
+  (List.map (fun ⟨_,y⟩ => mkRewrite (LLVMToRiscvPeepholeRewriteRefine.toPeepholeUNSOUND y))
+  mul_to_shl)
```
Comment (alexkeizer) [inline SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean]:
```suggestion
  List.map (fun ⟨_,y⟩ => mkRewrite (LLVMToRiscvPeepholeRewriteRefine.toPeepholeUNSOUND y) <|
    LLVMIR_not_cmp_fold
    ++ mul_by_neg_one
    ++ sub_to_add
    ++ mul_to_shl
```
Since we map over each list before concatenation, we might as well map over the concatenated thing.

Same for the other functions that follow this "combiner" pattern!

Comment (alexkeizer) [reply SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean]: NIT: For extra bonus points, the `(List.map (fun ⟨_,y⟩ => mkRewrite (LLVMToRiscvPeepholeRewriteRefine.toPeepholeUNSOUND y)) ...` feels like it should be doable via a functorial map as `LLVMToRiscvPeepholeRewriteRefine.toPeepholeUNSOUND <$> ...`, but that might require some Functor instance to be defined

File: SSA/Projects/LLVMRiscV/Pipeline/InstructionLowering.lean [hunk 4]
```diff
@@ -146,3 +147,48 @@ def selectionPipeFuelWithCSE {Γl : List LLVMPlusRiscV.Ty} (prog : Com LLVMPlusR
...
+    rewritingPatterns1  loweredConst;
+  let lowerPart2 := multiRewritePeephole 100
+    rewritingPatterns0 lowerPart1;
+  let postLoweringDCE := (DCE.dce' lowerPart2).val;
+  let postReconcileCast := multiRewritePeephole 100 (reconcile_cast_pass) postLoweringDCE;
+  let remove_dead_Cast1 := (DCE.dce' postReconcileCast).val;
+  let remove_dead_Cast2 := (DCE.dce' remove_dead_Cast1).val;
+  let optimize_eq_cast := (CSE.cse' remove_dead_Cast2).val;
+  let out := (DCE.dce' optimize_eq_cast).val;
+  let out2 := (DCE.dce' out).val;
```
Comment (alexkeizer) [inline SSA/Projects/LLVMRiscV/Pipeline/InstructionLowering.lean:189]: I believe I made this comment elsewhere as well, but why do we run DCE twice?

File: SSA/Projects/RISCV64/Semantics.lean [hunk 5]
```diff
@@ -978,4 +978,39 @@ def ZBA_RTYPE_pure64_RISCV_SH3ADD (rs2_val : BitVec 64) (rs1_val : BitVec 64) :
 def ZBA_pure64_RISCV_SLLIUW (shamt : BitVec 6) (rs1_val : BitVec 64) : BitVec 64 :=
   (BitVec.setWidth 64 (BitVec.extractLsb 31 0 rs1_val)) <<< shamt
 
+def ZBB_RTYPE_pure_RISCV_MIN_bv (rs2_val : BitVec 64) (rs1_val : BitVec 64) : BitVec 64 :=
+  BitVec.extractLsb' 0 64 (if BitVec.sle rs1_val rs2_val then rs1_val else rs2_val)
+
+theorem ZBB_RTYPE_pure_RISCV_MIN_eq_ZBB_RTYPE_pure_RISCV_MIN_bv (rs2_val : BitVec 64) (rs1_val : BitVec 64) :
+ZBB_RTYPE_pure_RISCV_MIN rs2_val rs1_val = ZBB_RTYPE_pure_RISCV_MIN_bv rs2_val rs1_val := by
```
Comment (alexkeizer) [inline SSA/Projects/RISCV64/Semantics.lean]:
```suggestion
    ZBB_RTYPE_pure_RISCV_MIN rs2_val rs1_val = ZBB_RTYPE_pure_RISCV_MIN_bv rs2_val rs1_val := by
```

File: SSA/Projects/RISCV64/Semantics.lean [hunk 6]
```diff
@@ -978,4 +978,39 @@ def ZBA_RTYPE_pure64_RISCV_SH3ADD (rs2_val : BitVec 64) (rs1_val : BitVec 64) :
...
+  unfold ZBB_RTYPE_pure_RISCV_MIN ZBB_RTYPE_pure_RISCV_MIN_bv
+  sorry
+
+def ZBB_RTYPE_pure_RISCV_MINU_bv (rs2_val : BitVec 64) (rs1_val : BitVec 64) : BitVec 64 :=
+  BitVec.extractLsb' 0 64 (if BitVec.ule rs1_val rs2_val then rs1_val else rs2_val)
+
+theorem ZBB_RTYPE_pure_RISCV_MINU_eq_ZBB_RTYPE_pure_RISCV_MINU_bv (rs2_val : BitVec 64) (rs1_val : BitVec 64) :
+  ZBB_RTYPE_pure_RISCV_MINU rs2_val rs1_val = ZBB_RTYPE_pure_RISCV_MINU_bv rs2_val rs1_val := by
```
Comment (alexkeizer) [inline SSA/Projects/RISCV64/Semantics.lean]:
```suggestion
    ZBB_RTYPE_pure_RISCV_MINU rs2_val rs1_val = ZBB_RTYPE_pure_RISCV_MINU_bv rs2_val rs1_val := by
```

Check indentation in this entire file: the type should be indented one level (=2 spaces) more than the body/proof

File: SSA/Projects/LLVMRiscV/Pipeline/InstructionLowering.lean [hunk 7]
```diff
@@ -146,3 +147,48 @@ def selectionPipeFuelWithCSE {Γl : List LLVMPlusRiscV.Ty} (prog : Com LLVMPlusR
...
+  - lowering instructions in `rewritingPatterns1`
+  - lowering instructions in `rewritingPatterns0`
+  - DCE (to remove LLVM instructions)
+  - remove casting operations (`reconcile_casts`)
+  - DCE (dead code due to casting removal)
+  - CSE
+  - pre-legalization `O0` optimizations from globalISel (on RISCV assembly)
+  - post-legalization `O0` optimizations from globalISel (on RISCV assembly)
+-/
+def selectionPipeFuelWithCSEWithOpt {Γl : List LLVMPlusRiscV.Ty} (prog : Com LLVMPlusRiscV
```
Comment (alexkeizer) [inline SSA/Projects/LLVMRiscV/Pipeline/InstructionLowering.lean]: It feels a bit iffy to set a constant fuel here, I would prefer that we add a fuel parameter to the function, which has 100 (or 150 or whatever) as the default value.

Comment (alexkeizer) [reply SSA/Projects/LLVMRiscV/Pipeline/InstructionLowering.lean]: Alternatively, we (meaning, I) should use Joachims `partial_fixpoint` machinery to eliminate the need for fuel in the framework!

**Review by alexkeizer — COMMENTED** [review]
I left a few comments, some are style nits, but also some questions I had about the code structure.

None are immediately blocking, but I am a little bit worried about the tech debt we're building up

File: SSA/Projects/LLVMRiscV/ParseAndTransform.lean (hunk 1 above)
Comment (luisacicolini) [reply SSA/Projects/LLVMRiscV/ParseAndTransform.lean]: done, and updated above for consistency

File: SSA/Projects/LLVMRiscV/Pipeline/InstructionLowering.lean (hunk 7 above)
Comment (luisacicolini) [reply SSA/Projects/LLVMRiscV/Pipeline/InstructionLowering.lean]: added parameter

File: SSA/Projects/LLVMRiscV/Pipeline/InstructionLowering.lean (hunk 4 above)
Comment (luisacicolini) [reply SSA/Projects/LLVMRiscV/Pipeline/InstructionLowering.lean:189]: yes, the second call removes code that gets generated after the cast removal

File: SSA/Projects/RISCV64/Semantics.lean (hunk 5 above)
Comment (luisacicolini) [reply SSA/Projects/RISCV64/Semantics.lean]: fixed

File: SSA/Projects/RISCV64/Semantics.lean (hunk 6 above)
Comment (luisacicolini) [reply SSA/Projects/RISCV64/Semantics.lean]: checked

File: SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean (hunk 2 above)
Comment (luisacicolini) [reply SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean]: done

File: SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean (hunk 3 above)
Comment (luisacicolini) [reply SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean]: yes I'm sorry I have no idea how to use functors

Comment (luisacicolini) [reply SSA/Projects/LLVMRiscV/Pipeline/Combiners.lean]: also, I don't think the fix you proposed works, given that the rules apply to different types
